US05580870
Using an analogous procedure to that described in Example 5, 4-chloro-6-dimethylaminoquinazoline was reacted with 5-amino-1H-indazole to give 6-dimethylamino-4-(1H-indazol-5-ylamino)quinazoline hydrochloride in 92% yield, m.p. >300° C.;

reactant | 4-chloro-6-dimethylaminoquinazoline | ClC1=NC=NC2=CC=C(C=C12)N(C)C | C10H10ClN3
reactant | 5-amino-1H-indazole | NC=1C=C2C=NNC2=CC1 | C7H7N3
product | 6-dimethylamino-4-(1H-indazol-5-ylamino)quinazoline hydrochloride | 92% yield | Cl.CN(C=1C=C2C(=NC=NC2=CC1)NC=1C=C2C=NNC2=CC1)C | InChI=1S/C17H16N6.ClH/c1-23(2)13-4-6-16-14(8-13)17(19-10-18-16)21-12-3-5-15-11(7-12)9-20-22-15;/h3-10H,1-2H3,(H,20,22)(H,18,19,21);1H
